US07977344B2
2-Butoxy-8-methoxy-9-[2-(tetrahydrofuran-2-yl)ethyl]-9H-Purin-6-amine
A stirring mixture of 2-butoxy-8-methoxy-1H-purin-6-amine trifluoroacetate salt (200 mg) and potassium carbonate (236 mg) in dry N,N-dimethylformamide (2 ml) was heated with stirring at 60° C. for 1 h. 2-(2-Bromoethyl)tetrahydrofuran (122 mg) was added and the stirring mixture heated at 50° C. for 4 h. After allowing to cool, water was added and the mixture extracted three times with ethyl acetate. The combined extracts were washed with water then brine, dried by passing through a phase separation cartridge and stripped to give a brown oil. This was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluent (20-60%) and the appropriate fractions combined and evaporated to remove acetonitrile. The remaining aqueous mixture was made basic with saturated sodium hydrogen carbonate, extracted three times with dichloromethane and the combined extracts dried by passing through a phase separation cartridge then evaporated to afford the title compound as a clear oil, yield 122 mg).

reactant | 2-butoxy-8-methoxy-1H-purin-6-amine trifluoroacetate salt | 200 mg | FC(C(=O)O)(F)F.C(CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | potassium carbonate | 236 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-Bromoethyl)tetrahydrofuran | 122 mg | BrCCC1OCCC1 | C6H11BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-Butoxy-8-methoxy-9-[2-(tetrahydrofuran-2-yl)ethyl]-9H-Purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1OCCC1)OC)N | C16H25N5O3
